US07985764B2
A 327 mg portion of methyl 3-(hydroxymethyl)-1H-indole-5-carboxylate was dissolved in 9 ml of acetonitrile, mixed with 385 mg of silver oxide and 3.6 ml of methyl iodide and stirred at 80° C. for 5 hours. A 385 mg portion of silver oxide was further added thereto and stirred overnight at 80° C. A 385 mg portion of silver oxide and 3.6 ml of methyl iodide were further added thereto and stirred at 80° C. for 9 hours. After cooling to room temperature, the insoluble matter was removed, the solvent was evaporated, and then the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:6 to 1:5 to 1:4) to obtain 143 mg of methyl 3-(methoxymethyl)-1H-indole-5-carboxylate as a pale yellow solid.

reactant | methyl 3-(hydroxymethyl)-1H-indole-5-carboxylate | OCC1=CNC2=CC=C(C=C12)C(=O)OC | C11H11NO3
reactant | methyl iodide | 3.6 ml | CI | CH3I
reactant | methyl iodide | 3.6 ml | CI | CH3I
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
catalyst | silver oxide | 385 mg | [Ag]=O
product | methyl 3-(methoxymethyl)-1H-indole-5-carboxylate | 143 mg | COCC1=CNC2=CC=C(C=C12)C(=O)OC | C12H13NO3
